*
*Circuito da LAB 3
*

.options savecurrents

*************************

*Voltages sources
VS 4 0 sin(0 230 50)
E1 5 6 4 0 0.0625

*Voltage controler

*************************
*full-bridge wave rectifier
Dfb1 0 5 Default
Dfb2 5 1 Default
Dfb3 0 6 Default
Dfb4 6 1 Default

*************************
R1 1 0 65k
C1 1 0 160u



*Voltage Regulator
R2 1 2 68.28k

*Series of diodes*
Dw 2 0 Diode_series_1
*************************

.model Default D
.model Diode_series_1 D (n = 22)

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

.op

tran 1e-5 0.4 0.2

meas trans Vavrg AVG v(2) from=200m to=400m
meas trans Vmax MAX v(2) from=200m to=400m
meas trans Vmin MIN v(2) from=200m to=400m

print Vavrg Vmax Vmi
	
let mean = {abs(mean(v(2))-12)}
let ripple = {maximum(v(2))-minimum(v(2))}

print mean ripple
	
hardcopy output_envelope_detector_1.eps v(1)

hardcopy output_voltage_regulator_1.eps v(2)

hardcopy error_1.eps v(2)-12

quit


.endc

.end
